US07935725B2
Step B: 1-(2,5-Diaza-bicyclo[2.2.1]hept-2-yl)-2-hydroxy-ethanone hydrochloride.
To a slurry of 5-(2-acetoxy-acetyl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (1.2 g, 4 mmol) in isopropanol (16 mL) was quickly added 5 M HCl in isopropanyl (3.2 mL, 16 mmol). The mixture was warmed to 51° C. and stirred for 20 h. It was then concentrated to provide the title compound in 97 wt % purity (767 mg, 96%). MS (ESI): mass calcd. for C7H12N2O2, 156.1; m/z found, 157.1 [M+H]+. 1H NMR (600 MHz, DMSO-d6): 9.9-9.2 (m, 2H), 4.73-4.71 (m, 1H), 4.42-4.37 (m, 1H), 4.1-3.9 (m, 2H), 3.79-3.77 (m, 0.5H), 3.55-3.48 (m, 1H), 3.37-3.35 (m, 0.5H), 3.25-3.07 (m, 2H), 2.00-1.82 (m, 2H).

reactant | 5-(2-acetoxy-acetyl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 4 mmol, 1.2 g | C(C)(C)(C)OC(=O)N1C2CN(C(C1)C2)C(COC(C)=O)=O | C14H22N2O5
reactant | HCl | 5 M | Cl | ClH
solvent | isopropanol | 16 mL | C(C)(C)O | C3H8O
product | 1-(2,5-Diaza-bicyclo[2.2.1]hept-2-yl)-2-hydroxy-ethanone hydrochloride | Cl.C12N(CC(NC1)C2)C(CO)=O | InChI=1S/C7H12N2O2.ClH/c10-4-7(11)9-3-5-1-6(9)2-8-5;/h5-6,8,10H,1-4H2;1H
